US08541448B2
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of N-(4-(2-bromoacetyl)phenyl)acetamide (1 g, 3.91 mmol, 1.00 equiv) in 1,4-dioxane (40 mL). This was followed by the addition of triethylamine (1.58 g, 15.64 mmol, 4.00 equiv) dropwise with stirring at 20° C. To this was added (2,4-dichlorophenyl)-N-methylmethanamine (880 mg, 4.63 mmol, 1.19 equiv) dropwise with stirring at 20° C. The resulting solution was stirred for 4 h at 20° C. The solids were filtered out. The resulting mixture was concentrated under vacuum to give 1.5 g (84%) of N-(4-(2-((2,4-dichlorobenzyl)(methyl)amino)acetyl)phenyl)acetamide as a white solid.

reactant | N-(4-(2-bromoacetyl)phenyl)acetamide | 3.91 mmol, 1 g, 1.00 equiv | BrCC(=O)C1=CC=C(C=C1)NC(C)=O | C10H10BrNO2
reactant | triethylamine | 15.64 mmol, 1.58 g, 4.00 equiv | C(C)N(CC)CC | C6H15N
reactant | (2,4-dichlorophenyl)-N-methylmethanamine | 4.63 mmol, 880 mg, 1.19 equiv | ClC1=C(C=CC(=C1)Cl)CNC | C8H9Cl2N
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | N-(4-(2-((2,4-dichlorobenzyl)(methyl)amino)acetyl)phenyl)acetamide | 1.5 g, 84% | ClC1=C(CN(CC(=O)C2=CC=C(C=C2)NC(C)=O)C)C=CC(=C1)Cl | C18H18Cl2N2O2
